US09334269B2
To a solution of 1-(3-bromophenyl)-3-(4-fluorophenoxy)azetidine (400 mg, 1.24 mmol) and 3-amino-N-methylbenzamide (187 mg, 1.24 mmol) in toluene (4 mL, 3 mmoL) was added cesium carbonate (180 mg, 1.86 mmol) and degassed for 15 min. Pd2(dba)3 (56 mg, 0.062 mmol) and BINAP (38 mg, 0.062 mmol) were added and the mixture was heated in the microwave for 30 min at 100° C. The reaction mixture was concentrated under reduced pressure and extracted with EtOAc (2×30 mL) and water (2×30 mL). The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure then purified by silica gel column chromatography to provide 3-((3-(3-(4-fluorophenoxy)azetidin-1-yl)phenyl)amino)-N-methylbenzamide (113 mg, 23%) as a solid. Observed mass (M+1): 393.1

reactant | 1-(3-bromophenyl)-3-(4-fluorophenoxy)azetidine | 1.24 mmol, 400 mg | BrC=1C=C(C=CC1)N1CC(C1)OC1=CC=C(C=C1)F | C15H13BrFNO
reactant | 3-amino-N-methylbenzamide | 1.24 mmol, 187 mg | NC=1C=C(C(=O)NC)C=CC1 | C8H10N2O
reactant | cesium carbonate | 1.86 mmol, 180 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.062 mmol, 38 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.062 mmol, 56 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-((3-(3-(4-fluorophenoxy)azetidin-1-yl)phenyl)amino)-N-methylbenzamide | 113 mg, 23% | FC1=CC=C(OC2CN(C2)C=2C=C(C=CC2)NC=2C=C(C(=O)NC)C=CC2)C=C1 | C23H22FN3O2
